### PR TITLE
Graded commutativity of cup product

### PR DESCRIPTION
**Pull request by aljungstrom**
This PR contains graded commutativity for the various versions of the cup product in the library. The main result (or, at least, the most general one) is the final theorem in `Homotopy.EilenbergMacLane.GradedCommTensor`. The proof itself is (beautiful in theory but in practice) a massive mess of transports and congs. It should be read by no one.

This means some ad hoc solutions in Cohomology/Rings can be removed, but I'll leave this for a future PR.

### CODE REVIEW

File: Cubical/Cohomology/EilenbergMacLane/CupProduct.agda [hunk 1]
```diff
@@ -110,3 +199,15 @@ module _ {G'' : Ring ℓ} {A : Type ℓ'} where
     → PathP (λ i → coHom (+'-assoc n m l (~ i)) G' A) ((x ⌣ y) ⌣ z) (x ⌣ (y ⌣ z))
   assoc⌣Dep n m l x y z = toPathP {A = λ i → coHom (+'-assoc n m l (~ i)) G' A}
                                   (flipTransport (assoc⌣ n m l x y z))
+
+module _ {G'' : CommRing ℓ} {A : Type ℓ'} where
+  private
+    G' = CommRing→AbGroup G''
+  comm⌣Dep : (n m : ℕ)
+    → (x : coHom n G' A)
+       (y : coHom m G' A)
```
Comment (mortberg) [inline Cubical/Cohomology/EilenbergMacLane/CupProduct.agda:208]: Why new line for y?

File: Cubical/Homotopy/EilenbergMacLane/CupProduct.agda [hunk 2]
```diff
@@ -139,3 +142,63 @@ module _ {G'' : Ring ℓ} where
                         ∙ sym (·DistR+ (snd G'') a
                               (fst TensorMultHom b) (fst TensorMultHom c)))
               λ x y ind ind2 → cong₂ _+G_ ind ind2))
+
+-- graded commutativity
+module _ {G'' : CommRing ℓ} where
+  private
+    G' = Ring→AbGroup (CommRing→Ring G'')
```
Comment (mortberg) [inline Cubical/Homotopy/EilenbergMacLane/CupProduct.agda:149]: CommRing->AbGroup?

File: Cubical/Homotopy/EilenbergMacLane/GradedCommTensor.agda [hunk 3]
```diff
@@ -0,0 +1,1313 @@
...
+
+open import Cubical.HITs.EilenbergMacLane1 as EM₁
+open import Cubical.HITs.Susp
+open import Cubical.HITs.Truncation as TR
+
+open import Cubical.Algebra.CommRing.Base
+open import Cubical.Algebra.Group.Properties
+open import Cubical.Data.Sum
+open import Cubical.Algebra.Group.Instances.IntMod
+open import Cubical.Algebra.CommRing.Instances.IntMod
```
Comment (mortberg) [inline Cubical/Homotopy/EilenbergMacLane/GradedCommTensor.agda:41]: Do you need IntMod?

File: Cubical/Homotopy/EilenbergMacLane/GradedCommTensor.agda [hunk 4]
```diff
@@ -0,0 +1,1313 @@
...
+open AbGroupStr renaming (_+_ to _+Gr_ ; -_ to -Gr_)
+open PlusBis
+
+private
+  variable
+    ℓ ℓ' : Level
+
+-- specialised lemmas
+private
+  -- elim rule for ℕ to help convince termination checker
```
Comment (mortberg) [inline Cubical/Homotopy/EilenbergMacLane/GradedCommTensor.agda:55]: This is not used?

File: Cubical/Data/Nat/Properties.agda [hunk 5]
```diff
@@ -327,3 +327,13 @@ module PlusBis where
   +'-suc zero (suc m) = refl
   +'-suc (suc n) zero = refl
   +'-suc (suc n) (suc m) = refl
+
+-- Neat transport lemma for ℕ
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/Data/Nat/Properties.agda:331]: yeah, I just thought it'd be nice to have for Nat since it's so commonly used as an indexing set.

File: Cubical/Cohomology/EilenbergMacLane/CupProduct.agda [hunk 6]
```diff
@@ -95,7 +104,87 @@ module _ {G'' : Ring ℓ} {A : Type ℓ'} where
...
+⌣[,,]C-syntax : {A : Type ℓ} (n m : ℕ) (R : CommRing ℓ')
+  → coHom n (CommRing→AbGroup R) A
+  → coHom m (CommRing→AbGroup R) A
+  → coHom (n +' m) (CommRing→AbGroup R) A
+⌣[,,]C-syntax n m R x y = x ⌣ y
+
+syntax ⌣[]-syntax R x y = x ⌣[ R ] y
+syntax ⌣[]C-syntax R x y = x ⌣[ R ]C y
+syntax ⌣[,,]-syntax n m R x y = x ⌣[ R , n , m ] y
+syntax ⌣[,,]C-syntax n m R x y = x ⌣[ R , n , m ]C y
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/Cohomology/EilenbergMacLane/CupProduct.agda:170]: Yes, let's do this in a future cleanup PR. There's more of the cohomology stuff that can be cleaned up now. Maybe I can open an issue to remind myself.

File: Cubical/Data/Sigma/Properties.agda [hunk 7]
```diff
@@ -152,7 +152,7 @@ module _ {A : Type ℓ} {A' : Type ℓ'} where
   unquoteDecl Σ-swap-≃ = declStrictIsoToEquiv Σ-swap-≃ Σ-swap-Iso
 
 module _ {A : Type ℓ} {B : A → Type ℓ'} {C : ∀ a → B a → Type ℓ''} where
-  Σ-assoc-Iso : Iso (Σ[ (a , b) ∈ Σ A B ] C a b) (Σ[ a ∈ A ] Σ[ b ∈ B a ] C a b)
+  Σ-assoc-Iso : Iso (Σ[ a ∈ Σ A B ] C (fst a) (snd a)) (Σ[ a ∈ A ] Σ[ b ∈ B a ] C a b)
```
[the remark this answers is not in the document]
Comment (aljungstrom) [reply Cubical/Data/Sigma/Properties.agda:155]: Wups, this was actually used in some other stuff that'll be a future PR. Must've left it here by mistake. The reason is that the goals become unreadable without this change. You get the whole 'telescope' business, you know?

File: Cubical/Data/Nat/Properties.agda (hunk 5 above)
[the remark this answers is not in the document]
Comment (mortberg) [reply Cubical/Data/Nat/Properties.agda:331]: Ok, let's keep it like this then

File: Cubical/Data/Sigma/Properties.agda (hunk 7 above)
[the remark this answers is not in the document]
Comment (mortberg) [reply Cubical/Data/Sigma/Properties.agda:155]: Ok, then I guess it's fine

File: Cubical/Homotopy/EilenbergMacLane/GradedCommTensor.agda (hunk 4 above)
Comment (aljungstrom) [reply Cubical/Homotopy/EilenbergMacLane/GradedCommTensor.agda:55]: it is, in `⌣ₖ-comm₂`

File: Cubical/Homotopy/EilenbergMacLane/GradedCommTensor.agda (hunk 3 above)
Comment (aljungstrom) [reply Cubical/Homotopy/EilenbergMacLane/GradedCommTensor.agda:41]: nope:-)

**Review by mortberg — APPROVED** [review]
